US08754215B2
Eur. J. Org. Chem. 2008, 895-913 describes a process comprising: a) reacting phenylethylamine with chloroacetyl chloride in presence of sodium bicarbonate to obtain 2-chloro-N-phenethylacetamide, b) treating 2-chloro-N-phenethylacetamide with aminoacetaldehyde dimethylacetal to give 2-[2,2-dimethoxyethyl)amino]-N-(2-phenylethyl)acetamide, c) making hydrochloride salt of 2-[(2,2-dimethoxyethyl)amino]-N-(2-phenylethyl)acetamide, and d) cyclising using sulphuric acid to form praziquanamine (i.e.4-oxo-1,2,3,6,7,11b-hexahydro-4H-pyrazino[2,1-a]isoquinoline).

reactant | 2-chloro-N-phenethylacetamide | ClCC(=O)NCCC1=CC=CC=C1 | C10H12ClNO
reactant | aminoacetaldehyde dimethylacetal | COC(CN)OC | C4H11NO2
product | N-(2-phenylethyl)acetamide | C1(=CC=CC=C1)CCNC(C)=O | C10H13NO
